US05700819
To a solution of methyl 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetate (231 mg, 0.66 mmol) in a mixture of water (5 ml) and dioxane (5 ml) was added dropwise 2N sodium hydroxide (2 ml, 4 mmol). After the addition was complete, the mixture was stirred for 2 hours, then diluted with water, washed with ether, acidified with 10% hydrochloric acid and extracted with ethyl acetate. The organic layer was dried, then evaporated to yield a residue, which was recrystallized from isopropyl ether to give 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetic acid (134 mg, 90%) as a colorless powder. m.p. 132° to 134° C.

reactant | methyl 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetate | 0.66 mmol, 231 mg | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=CC2)CC(=O)OC)F)F | C17H12F3NO2S
reactant | sodium hydroxide | 4 mmol, 2N, 2 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetic acid | 134 mg, 90% | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=CC2)CC(=O)O)F)F | C16H10F3NO2S
